US08455483B2
i) N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide
p-Toluenesulphonic acid monohydrate (4 molar equivalents) was added to a solution of N-butyl-N-(2,2-dimethoxyethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide (limiting reagent) in THF (10 volumes) and the resulting mixture stirred for 1 hour at room temperature. The solution was then added via a peristaltic pump to a suspension of 8-(2-aminoethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one hydrochloride (1 molar equivalent) and sodium bicarbonate (6.5 molar equivalents) in a mixture of NMP (4 volumes) and water (0.45 volumes) which had been stirring at room temp for 1 hour. The resulting cloudy solution was stirred for 30 mins before sodium triacetoxyborohydride (3 molar equivalents) was added portionwise and the resulting mixture was stirred for 1 hour.

reactant | p-Toluenesulphonic acid monohydrate | 4 molar | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | N-butyl-N-(2,2-dimethoxyethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide | C(CCC)N(C(CCOCCC1=CC(=CC=C1)CCN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1)=O)CC(OC)OC | C36H56N4O6S
reactant | 8-(2-aminoethyl)-5-hydroxy-2H-benzo[b][1,4]oxazin-3(4H)-one hydrochloride | 1 molar | Cl.NCCC1=CC=C(C2=C1OCC(N2)=O)O
reactant | sodium bicarbonate | 6.5 molar | C([O-])(O)=O.[Na+]
reactant | sodium triacetoxyborohydride | 3 molar | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N-Butyl-N-(2-(2-(5-hydroxy-3-oxo-3,4-dihydro-2H-benzo[b][1,4]oxazin-8-yl)ethylamino)ethyl)-3-(3-(2-(4-(2-isopropylthiazole-4-carbonyl)-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)ethyl)phenethoxy)propanamide | C(CCC)N(C(CCOCCC1=CC(=CC=C1)CCN1CCC2(CN(CCO2)C(=O)C=2N=C(SC2)C(C)C)CC1)=O)CCNCCC1=CC=C(C2=C1OCC(N2)=O)O | C44H62N6O7S
